* source TP3
X_U2A         0 N00187 N00257 N02719 0 awblm324 PARAMS: AVOL=1E+5 VOS=2E-3
+  GBW=1E+6 IBOS=5E-9 IB=45E-9 CMRR=17782.8 PSRR=1E+5 SR=0.5E+6 ISOURCE=40E-3
+  VPDIF=1
R_R1         N00195 N00257  100k  
R_R2         N00195 N00187  100k  
R_R3         0 N00195  100k  
V_V3         N00325 0 DC 0Vdc AC 1Vac 
C_C1         N00187 N00257  2n   
C_C2         N00325 N00195  0.1n   
V_V2         N02719 0 5
